US04013605
Preparation of dimethylol phenol
94 g of phenol are dissolved in 100 g of (33%) caustic soda solution and at 25° C 50 g of aqueous (30%) formaldehyde and 50 g of (90%) paraformaldehyde are added. The mixture initially heats slowly in an exothermic reaction. On reaching 40° C cooling takes place and this temperature is maintained until the formaldehyde content falls to below 1%, which takes 11/2 to 2 hours. 100 g of isobutanol are added and accompanied by cooling the mixture is set to a pH value of 8.0 to 8.5 with about 80 g of 35% hydrochloric acid, subsequently the pH value is set to 6.5 with about 5 to 10 g of formic acid, the aqueous phase is left to settle and discarded. The dimethylol phenol solution in isobutanol is freed from water by circulation distillation as described in Examples 1-4 under reduced pressure at 50°-55° C. Inorganic substances are removed by filtration and 240 g of the solution are obtained.

reactant | phenol | 94 g | C1(=CC=CC=C1)O | C6H6O
reactant | isobutanol | 100 g | C(C(C)C)O | C4H10O
reactant | hydrochloric acid | about 80 g | Cl | ClH
reactant | formic acid | about 5 to 10 g | C(=O)O | CH2O2
solvent | caustic soda | 100 g | [OH-].[Na+]
solvent | formaldehyde | C=O | CH2O
solvent | paraformaldehyde | 50 g | C=O | CH2O
product | dimethylol phenol | C(O)C=1C(=C(C=CC1)O)CO | C8H10O3
